US08236806B2
1-(2-fluorophenyl)-4-(3-(1-phenyl-3-propyl-1H-pyrazol-5-yl)propyl)piperazine (Compound 156)
151 mg (82%) of target compound was obtained by using a method same as in Example 1 by using 3-(1-phenyl-3-propyl-1H-pyrazol-5-yl)propanal (100 mg, 0.413 mmol), 1-(2-fluorophenyl)piperazine (74 mg, 0.413 mmol), DIPEA (0.110 mL, 0.620 mmol) and NaBH(OAc)3 (263 mg, 1.239 mmol).

reactant | 3-(1-phenyl-3-propyl-1H-pyrazol-5-yl)propanal | 0.413 mmol, 100 mg | C1(=CC=CC=C1)N1N=C(C=C1CCC=O)CCC | C15H18N2O
reactant | 1-(2-fluorophenyl)piperazine | 0.413 mmol, 74 mg | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
reactant | DIPEA | 0.620 mmol, 0.110 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 1.239 mmol, 263 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(2-fluorophenyl)-4-(3-(1-phenyl-3-propyl-1H-pyrazol-5-yl)propyl)piperazine | FC1=C(C=CC=C1)N1CCN(CC1)CCCC1=CC(=NN1C1=CC=CC=C1)CCC | C25H31FN4
